US07932271B2
2-[(2,5-Difluorophenyl)hydroxymethyl]-6-(1,3-dioxolan-2-yl)pyridine
Under an argon atmosphere, a tetrahydrofuran solution (2.0M, 12.4 ml, 24.8 mmol) of isopropylmagnesium chloride was added dropwise to a tetrahydrofuran (20 ml) solution of 2-bromo-6-(1,3-dioxolan-2-yl)pyridine (2.7 ml, 24.8 mmol) under ice cooling. The reaction mixture was stirred at room temperature for 3 hours. To the resulting brown solution was added dropwise 2,5-difluorobenzaldehyde (2.7 ml, 24.8 mmol) under ice cooling. The temperature of the reaction mixture was raised gradually to room temperature and then, stirring was conducted for 16 hours. After a saturated aqueous solution of ammonium chloride was added, the resulting mixture was extracted with ethyl acetate. The extract was washed sequentially with water and brine. The organic layer thus obtained was dried over magnesium sulfate and concentrated under reduced pressure. The residue was subjected to silica gel column chromatography. The fraction obtained from the hexane:ethyl acetate=4:1 eluate was concentrated under reduced pressure to give the title compound (2.90 g, 9.89 mmol, 40%) as a colorless oil.

reactant | isopropylmagnesium chloride | C(C)(C)[Mg]Cl
reactant | 2-bromo-6-(1,3-dioxolan-2-yl)pyridine | 24.8 mmol, 2.7 ml | BrC1=NC(=CC=C1)C1OCCO1 | C8H8BrNO2
reactant | 2,5-difluorobenzaldehyde | 24.8 mmol, 2.7 ml | FC1=C(C=O)C=C(C=C1)F | C7H4F2O
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 24.8 mmol, 2.0M, 12.4 ml | O1CCCC1 | C4H8O
product | 2-[(2,5-Difluorophenyl)hydroxymethyl]-6-(1,3-dioxolan-2-yl)pyridine | 9.89 mmol, 2.90 g, 40% | FC1=C(C=C(C=C1)F)C(C1=NC(=CC=C1)C1OCCO1)O | C15H13F2NO3
